US07737153B2
1-Benzofuran-4-ol
3.76 g (27.6 mmol) of 6,7-dihydro-1-benzofuran-4(5H)-one (prepared according to Tetrahedron Lett. 1994, 35, 6231) and 10% of palladium on activated carbon in 34 ml of decalin and 6 ml of dodecene are heated in a metal bath at 200° C. overnight. The mixture is cooled to 80° C., ethanol is added and the mixture is filtered off through CELITE (diatomaceous earth). The CELITE (diatomaceous earth) is washed twice with ethanol and the filtrate is concentrated. The residue, which still contains decalin and dodecene, is mixed with petroleum ether and cooled in an ice bath. An oily precipitate forms. The solvent is decanted off and the oil is purified by preparative HPLC.

reactant | 6,7-dihydro-1-benzofuran-4(5H)-one | 27.6 mmol, 3.76 g | O1C=CC2=C1CCCC2=O | C8H8O2
reactant | ethanol | C(C)O | C2H6O
catalyst | palladium on activated carbon | [Pd] | Pd
solvent | decalin | 34 ml | C1CCCC2CCCCC12 | C10H18
solvent | dodecene | 6 ml | C=CCCCCCCCCCC | C12H24
product | 1-Benzofuran-4-ol | O1C=CC=2C1=CC=CC2O | C8H6O2
